US07405300B2
Step 1: 2-Chloro-1-pyridin-2-yl-1H-indole-3-carboxaldehyde:
The title compound is prepared following the procedure of Andreani, A. et al., J. Med. Chem. 20, (1977) 1344-1346 as follows. To a mixture of dimethylformamide (0.50 mL) and dichloromethane (0.50 mL) is added phosphorus oxychloride (0.50 mL) at 0° C. After stirring for 15 min, a solution of 1-(pyridin-2-yl)-1,3-dihydroindol-2-one (Le Baunt, G. et al., EP 0 580 502) (250 mg, 1.2 mmol) in dichloromethane (2.0 mL) and pyridine (0.25 mL) is added and the resulting dark-red solution is stirred for 36 hr. The reaction mixture is poured onto ice water and extracted with dichloromethane. The combined organic layer is washed with water, with saturated sodium bicarbonate, with brine, dried over sodium sulfate, filtered and concentrated. The dark residue is purified by chromatography eluting with dichloromethane-0 to 3% methanol. Product containing fractions are combined and concentrated to afford 2-chloro-1-(pyridin-2-yl)-1H-indole-3-carboxaldehyde (70 mg, 23% yield) as a beige solid. TLC (dichloromethane) Rf 0.18; ESI/MS 257 (M+H); RT 2.99 min; NMR 10.16 (1H, s); 8.79 (1H, d); 8.25 (2H, m); 7.84 (1H, d, J=9 Hz); 7.73 (1H, m); 7.40 (3H, m).

reactant | dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(pyridin-2-yl)-1,3-dihydroindol-2-one | 1.2 mmol, 250 mg | N1=C(C=CC=C1)N1C(CC2=CC=CC=C12)=O | C13H10N2O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 0.50 mL | ClCCl | CH2Cl2
product | 2-chloro-1-(pyridin-2-yl)-1H-indole-3-carboxaldehyde | 70 mg, 23% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=NC=CC=C1 | C14H9ClN2O
